US06566535B1
Ethyl 4-(4-bromo-2-formylphenylthio)butyrate was synthesized from 5-bromo-2-fluorobenzaldehyde and ethyl 4-mercaptobutyrate in the same manner as Example 2. After column chromatography, crystallization from hexane/isopropyl ether yielded ethyl 4-(4-bromo-2-formylphenylthio)butyrate (Yield 78%) as yellow crystals.

reactant | 5-bromo-2-fluorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | ethyl 4-mercaptobutyrate | SCCCC(=O)OCC | C6H12O2S
product | ethyl 4-(4-bromo-2-formylphenylthio)butyrate | Yield 78% | BrC1=CC(=C(C=C1)SCCCC(=O)OCC)C=O | C13H15BrO3S
